US08071773B2
d) (2,6-bis-Aminomethylpiperidin-2-yl)acetic acid hydrochloride
A solution of 6.00 mmol of tert-butyl (1-benzyl-2,6-dicyanopiperidin-2-yl)acetate in 40 ml of methanol is admixed with 2 ml of 37% strength aqueous hydrochloric acid and 0.600 g of 10% Pd/C. The reaction mixture is hydrogenated with 4 bar of hydrogen at 22° C. for 18 hours. The reaction mixture is filtered over Hyflo and the filtrate is evaporated. From the residue the crude title compound is identified on the basis of the Rf value. The title compound is used without further purification in the next stage.

reactant | tert-butyl (1-benzyl-2,6-dicyanopiperidin-2-yl)acetate | 6.00 mmol | C(C1=CC=CC=C1)N1C(CCCC1C#N)(C#N)CC(=O)OC(C)(C)C | C20H25N3O2
reactant | hydrochloric acid | Cl | ClH
reactant | hydrogen | [H][H] | H2
solvent | methanol | 40 ml | CO | CH4O
catalyst | Pd/C | 0.600 g | [Pd] | Pd
product | (2,6-bis-Aminomethylpiperidin-2-yl)acetic acid hydrochloride | Cl.NCC1(NC(CCC1)CN)CC(=O)O | InChI=1S/C9H19N3O2.ClH/c10-5-7-2-1-3-9(6-11,12-7)4-8(13)14;/h7,12H,1-6,10-11H2,(H,13,14);1H
